US07282497B2
Benzyl(1R)-4-hydroxy-1-(hydroxymethyl)butylcarbamate
A solution of dimethyl (2R)-2-{[(benzyloxy)carbonyl]amino}pentanedioate (22.4 g) in dry THF (74 ml) was added dropwise over 1 h to a stirred mixture of lithium borohydride (4.5 g) in THF (200 ml) at room temperature, under nitrogen. Stirring at room temperature was continued for 3 days. The reaction mixture was diluted with brine and water, and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (over magnesium sulphate) and concentrated under reduced pressure to give the title compound (16.5 g) as a white solid.

reactant | dimethyl (2R)-2-{[(benzyloxy)carbonyl]amino}pentanedioate | 22.4 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(=O)OC)CCC(=O)OC | C15H19NO6
reactant | lithium borohydride | 4.5 g | [BH4-].[Li+]
solvent | THF | 74 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | water | O | H2O
product | Benzyl(1R)-4-hydroxy-1-(hydroxymethyl)butylcarbamate | 16.5 g | OCCC[C@H](CO)NC(OCC1=CC=CC=C1)=O | C13H19NO4
